US08076334B2
A solution of 2-[3,5-dichloro-4-(5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile (2.0 g, 4.60 mmol) in methanol (30 mL) was treated with a solution of 37% aqueous formaldehyde (7.5 mL, 100.72 mmol). The resulting mixture was heated to 100° C. for 18 h. At this time, the reaction mixture was cooled to 25° C. and was diluted with water. The resulting precipitate was collected by filtration, was washed with water and was dried in vacuo to afford 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile (1.97 g, 92%) as a light yellow solid. ES+-HRMS m/e calcd for C18H14N6O5Cl2 (M+H+) 465.0476, found 465.0475.

reactant | 2-[3,5-dichloro-4-(5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | 4.60 mmol, 2.0 g | ClC=1C=C(C=C(C1OC1=NNC(C(=C1)C(C)C)=O)Cl)N1N=C(C(NC1=O)=O)C#N | C17H12Cl2N6O4
reactant | formaldehyde | 100.72 mmol, 7.5 mL | C=O | CH2O
solvent | methanol | 30 mL | CO | CH4O
solvent | water | O | H2O
product | 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | 1.97 g, 92% | ClC=1C=C(C=C(C1OC1=NN(C(C(=C1)C(C)C)=O)CO)Cl)N1N=C(C(NC1=O)=O)C#N | C18H14Cl2N6O5
